US04124725
A solution of 54.5 g. (0.29 mole) of 4-methylthiobenzoyl chloride in 200 ml. of dichloroethylene is added gradually to 55 g. (0.29 mole) of titanium tetrachloride. After cooling this mixture, a solution of 60 g. of 2,6-di(t-butyl)phenol in 200 ml. of dichloroethylene is added. The resulting mixture is stirred for several hours, then hydrolyzed with 10 percent hydrochloric acid. The organic layer is separated, washed with water, dried and evaporated to provide a yellow oil. This product is mixed with hexane to provide a white solid which is recrystallized from hexane to provide 4-(4-methylthiobenzoyl)-2,6-di(t-butyl)-phenol, m.p. 135°-136° C.

reactant | 4-methylthiobenzoyl chloride | 0.29 mole | CC1=CC=C(C(=S)Cl)C=C1 | C8H7ClS
reactant | dichloroethylene | C(CCl)Cl | C2H4Cl2
reactant | 2,6-di(t-butyl)phenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | hydrochloric acid | Cl | ClH
catalyst | titanium tetrachloride | 0.29 mole | [Ti](Cl)(Cl)(Cl)Cl
solvent | hexane | CCCCCC | C6H14
product | 4-(4-methylthiobenzoyl)-2,6-di(t-butyl)-phenol | CC1=CC=C(C(=S)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C22H28OS
